US07601729B2
2-[2-(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-3-hydroxy-5-(4-iodophenyl)pentanoic acid
Trifluoroacetic acid (5 mL) was added in one portion to a stirred solution of 1,1-dimethylethyl 2-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-5-(4-iodophenyl)-3-({[4-(methyloxy)phenyl]methyl}oxy)pentanoate (261 mg, 0.390 mmol) in dichloromethane (5 mL) at room temperature under nitrogen. The resulting solution was stirred for 45 min then the volatiles evaporated to give the title compound (192 mg, 100%) as a yellow solid which was a mixture of diastereomers. LC/MS: 3.32 min; z/e 493, calcd (M+1) 493. 1H NMR (400 MHz: CDCl3): 7.85 (4H), 7.55 (2H), 6.95 (2H), 4.90 (1H), 3.80-3.50 (3H), 2.70-2.20 (3H), 1.85 (2H), 1.55 (2H).

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1,1-dimethylethyl 2-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-5-(4-iodophenyl)-3-({[4-(methyloxy)phenyl]methyl}oxy)pentanoate | 0.390 mmol, 261 mg | O=C1N(C(C2=CC=CC=C12)=O)CCC(C(=O)OC(C)(C)C)C(CCC1=CC=C(C=C1)I)OCC1=CC=C(C=C1)OC | C33H36INO6
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-[2-(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-3-hydroxy-5-(4-iodophenyl)pentanoic acid | 192 mg, 100% | O=C1N(C(C2=CC=CC=C12)=O)CCC(C(=O)O)C(CCC1=CC=C(C=C1)I)O | C21H20INO5
